US06034096
A solution of 6-(diethylaminomethyl)-2-naphthalene-methanol (12.5 g, 51 mmol) and N,N'-disuccinimidyl carbonate (13.2 g, 51 mmol) in acetonitrile (250 ml) was stirred at room temperature for 3 hours, then the solvent was removed and the crude was dissolved in THF (110 ml). This solution was added to a solution of 4-amino benzoic acid (7.1 g, 51 mmol) and sodium carbonate (5.5 g, 51 mmol) in water (200 ml) and THF (100 ml). The mixture was stirred overnight at room temperature, then THF was removed under reduced pressure and the solution was treated with 1N HCl (102 ml, 102 mmol). The precipitate was filtered, dried under reduced pressure, tritured in diethyl ether and filtered yielding 13.2 g (yield 64%) of pure 4-[6-(diethylaminomethyl)naphth-2-ylmethyloxycarbamoyl]-benzoic acid; m.p.=201-205° C. (dec.)

reactant | 6-(diethylaminomethyl)-2-naphthalene-methanol | 51 mmol, 12.5 g | C(C)N(CC)CC=1C=C2C=CC(=CC2=CC1)CO | C16H21NO
reactant | N,N'-disuccinimidyl carbonate | 51 mmol, 13.2 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | 4-amino benzoic acid | 51 mmol, 7.1 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | sodium carbonate | 51 mmol, 5.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 102 mmol, 1N, 102 ml | Cl | ClH
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | water | 200 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-[6-(diethylaminomethyl)naphth-2-ylmethyloxycarbamoyl]-benzoic acid | 13.2 g, yield 64% | C(C)N(CC)CC=1C=C2C=CC(=CC2=CC1)CONC(=O)C1=CC=C(C(=O)O)C=C1 | C24H26N2O4
